US08293751B2
1-[4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(4-methanesulfonyl-phenoxy)pyrimidin-5-yl]-ethanone
To a solution of 1-[4-chloro-6-(4-methanesulfonyl-phenoxy)-pyrimidin-5-yl]-ethanone (0.21 mmol, 70 mg) and 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine (0.21 mmol, 49 mg) in N,N-dimethyl formamide (500 uL) was added potassium carbonate (0.21 mmol, 29 mg). The mixture was microwaved at 100° C. for 150 seconds. Its progress was monitored by thin layer chromatography and LCMS. The reaction was treated with water and the desired compound was extracted in ethyl acetate. Organic layer was evaporated in vacuo. Purification by HPLC provided Compound A165 as a white solid (20 mg, 20%). 1H-NMR (400 MHz, CDCl3) δ(ppm): 8.24 (s, 1H); 8.01 (d, 2H); 7.32 (d, 2H); 4.02 (m, 2H); 3.22 (m, 3H); 3.10 (m, 1H); 3.08 (s, 3H); 2.69 (s, 3H), 2.18 (m, 2H), 2.02 (m, 2H); 1.35 (d, 6H). LCMS (ESI), m/z 486.3 (M+H+, 100%).

reactant | 1-[4-chloro-6-(4-methanesulfonyl-phenoxy)-pyrimidin-5-yl]-ethanone | 0.21 mmol, 70 mg | ClC1=NC=NC(=C1C(C)=O)OC1=CC=C(C=C1)S(=O)(=O)C | C13H11ClN2O4S
reactant | 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine | 0.21 mmol, 49 mg | C(C)(C)C1=NOC(=N1)C1CCNCC1 | C10H17N3O
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 500 uL | CN(C=O)C | C3H7NO
product | 1-[4-[4-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-6-(4-methanesulfonyl-phenoxy)pyrimidin-5-yl]-ethanone | 20 mg, 20% | C(C)(C)C1=NOC(=N1)C1CCN(CC1)C1=NC=NC(=C1C(C)=O)OC1=CC=C(C=C1)S(=O)(=O)C | C23H27N5O5S
